US03984465
A solution of (1-oxo-2-hydroxymethyl-2-isopropyl-6,7-dichloro-5-indanyloxy)acetic acid (4.0 g., 0.012 mole), isobutylene (6 ml.), chloroform (20 ml.) and concentrated sulfuric acid (0.1 ml.) is sealed from the atmosphere and stirred at 25°C. for two weeks. After this time, the reaction mixture is poured into saturated aqueous sodium bicarbonate. The chloroform layer is separated, washed with water, dried and the chloroform distilled at reduced pressure affording tert.-butyl-(1-oxo-2-isopropyl-2-tert.-butoxymethyl-6,7-dichloro-5-indanyloxy)acetate which is hydrolyzed in a refluxing solution of methanolic potassium hydroxide. Acidification of the hydrolysis solution affords (1-oxo-2-isopropyl-2-tert.-butoxymethyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 148°-149° C. after recrystallization from acetic acid-water.

reactant | (1-oxo-2-hydroxymethyl-2-isopropyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.012 mole, 4.0 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C(C)C)CO | C15H16Cl2O5
reactant | isobutylene | 6 ml | CC(C)=C | C4H8
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | tert.-butyl-(1-oxo-2-isopropyl-2-tert.-butoxymethyl-6,7-dichloro-5-indanyloxy)acetate | C(C)(C)(C)OC(COC=1C=C2CC(C(C2=C(C1Cl)Cl)=O)(COC(C)(C)C)C(C)C)=O | C23H32Cl2O5
